US08242133B2
A mixture of 0.40 g of 5-tert-butyl-2-(2-chloro-5-trifluoromethylpyridin-4-yl)benzoxazole, 0.59 g of 5% palladium on carbon and 25 ml of acetic acid was stirred under about one atmosphere of hydrogen at room temperature for 15 hours. The reaction mixture was filtered through Celite™. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.19 g of 5-tert-butyl-2-(3-trifluoromethylpyridin-4-yl)benzoxazole (hereinafter, referred to as “active compound 107”).

reactant | 5-tert-butyl-2-(2-chloro-5-trifluoromethylpyridin-4-yl)benzoxazole | 0.40 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=CC(=NC=C2C(F)(F)F)Cl)C1 | C17H14ClF3N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.59 g | [Pd] | Pd
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-tert-butyl-2-(3-trifluoromethylpyridin-4-yl)benzoxazole | 0.19 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)C(F)(F)F)C1 | C17H15F3N2O
